US04061746
To 43.5 g (0.22 mole) of 2-azacyclotridecanone in 200 ml of dry benzene is added dropwise 30.7 g (0.2 mole) of phosphorousoxychloride. The reaction mixture is stirred at room temperature for 4 hours after which 33.8 g (0.2 mole) of o-biphenylamine is added and stirring is continued at room temperature for 1 hour then at reflux temperature for 4 hours. The reaction mixture is alowed to stand overnight then is washed with 2N hydrochloric acid, dried and evaporated leaving a residue which is recrystallized from acetone/methanol to give 2-(o-biphenylylimino)azacyclotridecane hydrochloride, M.P. 249°-251° C.

reactant | 2-azacyclotridecanone | 0.22 mole, 43.5 g | C1(NCCCCCCCCCCC1)=O | C12H23NO
reactant | phosphorousoxychloride | 0.2 mole, 30.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | o-biphenylamine | 0.2 mole, 33.8 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(o-biphenylylimino)azacyclotridecane hydrochloride | Cl.C1(=C(C=CC=C1)N=C1NCCCCCCCCCCC1)C1=CC=CC=C1 | InChI=1S/C24H32N2.ClH/c1-2-4-6-11-19-24(25-20-14-7-5-3-1)26-23-18-13-12-17-22(23)21-15-9-8-10-16-21;/h8-10,12-13,15-18H,1-7,11,14,19-20H2,(H,25,26);1H
